US04639267
A mixture of 4-(3,5-dimethyl-4-methoxyphenyl)-4-oxobutyric acid (13 g), zinc amalgam [prepared from zinc (15 g) and mercuric chloride (1.5 g)], glacial acetic acid (70 ml), water (70 ml) and concentrated hydrochloric acid (170 ml) was heated at reflux for 12 hr. The cooled mixture was filtered and the filtrate was poured into water (1 liter). The mixture was extracted with ethyl acetate and the organic fraction was washed four times with water. The dried (MgSO4) organic fraction was evaporated to give 4-(3,5-dimethyl-4-hydroxyphenyl)butyric acid as a pale yellow oil. Pmr spectrum (CDCl3 ; δ in ppm): 1.79-2.64 (6H,m); 2.22 (6H,s); 6.79 (2H,s); 7.6 (2H,brs).

reactant | 4-(3,5-dimethyl-4-methoxyphenyl)-4-oxobutyric acid | 13 g | CC=1C=C(C=C(C1OC)C)C(CCC(=O)O)=O | C13H16O4
reactant | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 170 ml | Cl | ClH
solvent | water | 70 ml | O | H2O
product | 4-(3,5-dimethyl-4-hydroxyphenyl)butyric acid | CC=1C=C(C=C(C1O)C)CCCC(=O)O | C12H16O3
